US07968573B2
A mixture of 10 g of 2-pyrrolecarbaldehyde, 10 g of 2-fluoropyridine, 24 g of cesium carbonate and 100 ml of N-methylpyrrolidone was stirred at 120° C. for 1 day. The reaction mixture was allowed to cool to room temperature. Water was poured into the mixture, and the mixture was extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 7.7 g of 1-(2-pyridinyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 2-pyrrolecarbaldehyde | 10 g | N1C(=CC=C1)C=O | C5H5NO
reactant | 2-fluoropyridine | 10 g | FC1=NC=CC=C1 | C5H4FN
reactant | cesium carbonate | 24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | O | H2O
product | 1-(2-pyridinyl)-1H-pyrrole-2-carbaldehyde | 7.7 g | N1=C(C=CC=C1)N1C(=CC=C1)C=O | C10H8N2O
